US07498460B2
3-[4-(1,1′-Biphenyl-4-ylmethoxy)phenyl]-1-propanol
12.8 g (41.4 mmol) of 4-phenylbenzyl bromide, 6.94 g (45.6 mmol) of 4-hydroxy-phenylpropanol and 6.87 g (49.7 mmol) of potassium carbonate are stirred in 50 ml of butyronitrile at 120° C. for 6 hours. Cooling to room temperature is followed by removal of the inorganic salts by filtration with suction and concentration in vacuo. The crude product is purified by chromatography on silica gel 60 (mobile phase gradient cyclohexane-->cyclohexane/ethyl acetate 60:40). 4.90 g (37% of theory) of product are obtained.

reactant | 4-phenylbenzyl bromide | 41.4 mmol, 12.8 g | C1(=CC=CC=C1)C1=CC=C(CBr)C=C1 | C13H11Br
reactant | 4-hydroxy-phenylpropanol | 45.6 mmol, 6.94 g | OC1=CC=C(C=C1)C(CC)O | C9H12O2
reactant | potassium carbonate | 49.7 mmol, 6.87 g | C([O-])([O-])=O.[K+].[K+]
solvent | butyronitrile | 50 ml | C(CCC)#N | C4H7N
product | 3-[4-(1,1′-Biphenyl-4-ylmethoxy)phenyl]-1-propanol | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CCCO)C1=CC=CC=C1 | C22H22O2
